US05276045
A stirred suspension of (±)-N-methyl-2-oxo-1-(3-pyridyl)cyclohexanecarbothioamide (2.5 g) and aniline (3.72 g) in anhydrous dichloroethane (30 ml) under an argon atmosphere was treated dropwise at 25° C. with titanium tetrachloride (0.8 ml). The reaction mixture was stirred at 25° C. until completion of the reaction (as judged by TLC analysis), and then it was poured into a solution of sodium bicarbonate (16.8 g) in water (100 ml) and stirred for 15 minutes. The mixture was filtered through a pad of celite and the aqueous layer was extracted with dichloromethane (3×75 ml). The combined organic solution was washed with aqueous sodium bicarbonate solution (100 ml; 10% w/w), with water (50 ml) and with saturated brine (100 ml), and then it was dried over sodium sulphate and concentrated in vacuo, to give N-methyl-2-phenylimino-1-(3-pyridyl)cyclohexanecarbothioamide in the form of a crude oil.

reactant | (±)-N-methyl-2-oxo-1-(3-pyridyl)cyclohexanecarbothioamide | 2.5 g | CNC(=S)C1(C(CCCC1)=O)C=1C=NC=CC1 | C13H16N2OS
reactant | aniline | 3.72 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium bicarbonate | 16.8 g | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 100 ml | O | H2O
catalyst | titanium tetrachloride | 0.8 ml | [Ti](Cl)(Cl)(Cl)Cl
product | N-methyl-2-phenylimino-1-(3-pyridyl)cyclohexanecarbothioamide | CNC(=S)C1(C(CCCC1)=NC1=CC=CC=C1)C=1C=NC=CC1 | C19H21N3S
